US05576437
A solution of 8-methyl-7-quinolinylisothiocyanate (1.36 g) in CH2Cl2 (50 mL) is added dropwise to ethylene diamine (2.26 mL) in solution in CH2Cl2 (50 mL). The mixture is stirred for 30 minutes at room temperature then rotary evaporated. The residue is suspended in CH2Cl2 (50 mL) and ether (50 mL) and filtered. The precipitate is dried in vacuo to afford N-(8-methyl-7-quinolinyl)-N'-2-aminoethylthiourea as a white powder.

reactant | 8-methyl-7-quinolinylisothiocyanate | 1.36 g | CC=1C(=CC=C2C=CC=NC12)N=C=S | C11H8N2S
reactant | ethylene diamine | 2.26 mL | C(CN)N | C2H8N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(8-methyl-7-quinolinyl)-N'-2-aminoethylthiourea | CC=1C(=CC=C2C=CC=NC12)NC(=S)NCCN | C13H16N4S
